US07973012B2
(2) Preparation of (1S)-1,5-anhydro-1-[2-hydroxy-5-[4-[4-[(2-hydroxy-1,1-dimethylethyl)amino]-4-oxobutyl]benzyl]-4-methylphenyl]-D-glucitol
To a methanol solution (1.2 mL) of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[(1E)-4-[(2-hydroxy-1,1-dimethylethyl)amino]-4-oxobut-1-en-1-yl]benzyl]-4-methylphenyl]-D-glucitol (120 mg, 0.124 mmol) was added 10% palladium-activated carbon (22 mg), and the mixture was stirred overnight under a hydrogen atmosphere at room temperature. The reaction solution was filtered through celite, and evaporated under reduced pressure to obtain a residue. Thus obtained residue was purified with silica gel column chromatography (chloroform:methanol=20:1 to 5:1) to obtain the title compound (58 mg, 90%) as a colorless powder. NMR data and MS data of the compound are shown in Table 1.

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[(1E)-4-[(2-hydroxy-1,1-dimethylethyl)amino]-4-oxobut-1-en-1-yl]benzyl]-4-methylphenyl]-D-glucitol | 0.124 mmol, 120 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)\C=C\CC(=O)NC(CO)(C)C)C)OCC1=CC=CC=C1 | C63H67NO8
catalyst | palladium-activated carbon | 22 mg | [Pd] | Pd
solvent | methanol | 1.2 mL | CO | CH4O
product | (1S)-1,5-anhydro-1-[2-hydroxy-5-[4-[4-[(2-hydroxy-1,1-dimethylethyl)amino]-4-oxobutyl]benzyl]-4-methylphenyl]-D-glucitol | 58 mg, 90% | OC1=C(C=C(C(=C1)C)CC1=CC=C(C=C1)CCCC(=O)NC(CO)(C)C)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C28H39NO8
